US08258140B2
Alternative route for the preparation of 6-(4-{4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine Form A
Methanol (375.0 mL) was added to 6-[4-[4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (25.0 g, 48 m mol) in a 2.0 L autoclave reactor and to this was added 10% Pd/C (12.5 g, 50% w/w) paste at 22-25° C. under nitrogen gas atmosphere. The reaction was performed under hydrogen pressure (5.0 bar) at 50° C. temperature for 10.0 h. The reaction mass was cooled to room temperature and the catalyst removed by filtration. Filtered cake was washed with methanol. The solvent was evaporated and the residue was azeotropically distilled by is ethylacetate (2×125.0 mL) at 40° C. under reduced pressure to 3.0 rel vol (75.0 mL). Drop wise addition of tert-butylmethylether (MTBE, 375.0 mL) to the reaction mass resulted in solid material, which was collected by filtration and washed with MTBE (50.0 mL). The material was dried under reduced pressure with nitrogen gas bleed at 50° C. to afford the desired product 6-(4-{4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine (22.3 g, 88%) as a white color free flowing solid. The isolated material was confirmed by XRPD as Form A.

reactant | 6-[4-[4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 25.0 g | C(C)(=O)N1CCN(CC1)CCOC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C25H30F3N7O2
catalyst | Pd/C | 12.5 g | [Pd] | Pd
solvent | Methanol | 375.0 mL | CO | CH4O
product | 6-(4-{4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine | 22.3 g, 88% | C(C)(=O)N1CCN(CC1)CCOC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F | C25H32F3N7O2
